US06399603B1
8-((1E)-2-(4-Methylphenyl)vinyl)-2-((3,4-dichlorophenyl)amino)-6-fluoroquinazolin-4-ol.
2-((3,4-Dichlorophenyl)amino)-6-fluoro-8-iodoquinazolin-4-ol. A solution of 2-chloro-6-fluoro-8-iodoquinazolin-4-ol (3.0 g) and 3,4-dichloroaniline (4.49 g) in N-methylpyrrolidone (60 mL) was heated to 120° C. for 3.5 h. After cooling to room temperature, the reaction mixture was quenched into ice/water. The precipitate which formed was isolated by filtration, washed with water and dried to afford the title compound as a light yellow solid (3.32 g). 1H NMR (300 MHz, DMSO-d6): δ11.23 (brs, 1H), 9.16 (s, 1H), 8.82 (d, J=2.1 Hz, 1H), 8.20 (dd, J=3 & 8.1 Hz, 1H), 7.72 (dd, J=3 & 8.4 Hz, 1H), 7.55 (m, 2H).

reactant | 2-((3,4-Dichlorophenyl)amino)-6-fluoro-8-iodoquinazolin-4-ol | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)F)I | C14H7Cl2FIN3O
reactant | 2-chloro-6-fluoro-8-iodoquinazolin-4-ol | 3.0 g | ClC1=NC2=C(C=C(C=C2C(=N1)O)F)I | C8H3ClFIN2O
reactant | 3,4-dichloroaniline | 4.49 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | N-methylpyrrolidone | 60 mL | CN1C(CCC1)=O | C5H9NO
product | 8-((1E)-2-(4-Methylphenyl)vinyl)-2-((3,4-dichlorophenyl)amino)-6-fluoroquinazolin-4-ol | 3.32 g | CC1=CC=C(C=C1)/C=C/C=1C=C(C=C2C(=NC(=NC12)NC1=CC(=C(C=C1)Cl)Cl)O)F | C23H16Cl2FN3O
